US08895745B2
Step 1: (3-Bromo-phenyl)-(tetrahydro-pyran-4-yl)-amine
To a solution of 3-Bromo-phenylamine (0.54 ml, 5 mmol) and tetrahydro-4H-pyran-4-one (0.5 g, 5 mmol) in DCE (20 ml) was added sodium triacetoxyborohydride (1.48 g, 7 mmol) and acetic acid (0.3 g). The mixture was stirred for 18 h before being quenched with 1N NaOH (10 ml). The mixture was partitioned between Et2O and H2O, the aqueous layer further extracted with Et2O, the organics combined, dried (MgSO4), filtered and the solvent removed in vacuo to give a colourless liquid. Purification using silica column chromatography (0-80% EtOAc/hexane gradient) afforded the title compound as a white solid (0.81 g). MS: [M+H]+=256,258

reactant | 3-Bromo-phenylamine | 5 mmol, 0.54 ml | BrC=1C=C(C=CC1)N | C6H6BrN
reactant | tetrahydro-4H-pyran-4-one | 5 mmol, 0.5 g | O1CCC(CC1)=O | C5H8O2
reactant | sodium triacetoxyborohydride | 7 mmol, 1.48 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.3 g | C(C)(=O)O | C2H4O2
solvent | DCE | 20 ml | ClCCCl | C2H4Cl2
product | (3-Bromo-phenyl)-(tetrahydro-pyran-4-yl)-amine | 0.81 g | BrC=1C=C(C=CC1)NC1CCOCC1 | C11H14BrNO
